US06069157
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(5-trifluoromethylfuran-2-yl)pyrazole
To a solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(furan-2-yl)pyrazole (0.46 g) in dimethylformamide (15 ml) and water (5 ml) was added sodium dithionite (0.286 g) and disodium hydrogen phosphate (0.17 g). The mixture placed in a 400 ml Parr vessel, which was evacuated, then charged with trifluoromethylbromide gas to 40 psi. The mixture was shaken and heated at 45° C., for 3 hours, then left at room temperature for 16 hours. The vessel was then evacuated, then recharged with trifluoromethylbromide to 40 psi, then shaken and heated to 45° C. for a further 9 hours, then left at room temperature for 48 hours. The vessel was then evacuated, then recharged with trifluoromethylbromide to 40 psi, then shaken and heated to 45° C. for a further 7 hours, then left at room temperature for 16 hours. The mixture was filtered and then poured into brine (25 ml) and extracted with ether (25 ml, ×3). The combined organic layers were washed with water (20 ml), dried (Na2SO4), and evaporated. The residue was purified by column chromatography on silica gel (25 g) eluted with hexane:ether (50:50 changing gradually to 20:80). Combination and evaporation of suitable fractions gave the title compound as a pale yellow solid, m.p. 148-151° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(furan-2-yl)pyrazole | 0.46 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C=1OC=CC1 | C15H7Cl2F3N4O
reactant | sodium dithionite | 0.286 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | disodium hydrogen phosphate | 0.17 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(5-trifluoromethylfuran-2-yl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C=1OC(=CC1)C(F)(F)F | C16H6Cl2F6N4O
